.global VSS
.global VSS
.subckt double_tail_sense_amplifier CLK CLK_B DIN DIP VDD VIN VIP VON VOP VSS
MTAIL_P_1 REGEN_SOURCE CLK_B VDD VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MTAIL_P_2 REGEN_SOURCE CLK_B VDD VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MINV_P_P VOP VON REGEN_SOURCE VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MINV_P_N VON VOP REGEN_SOURCE VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MLOAD_P DIN CLK VDD VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=16
MLOAD_N DIP CLK VDD VDD sky130_fd_pr__pfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=16
MRESET_P VOP DIN VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
MRESET_N VON DIP VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
MINV_N_P VOP VON VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
MINV_N_N VON VOP VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
MIN_P DIN VIP PRE_AMP_SOURCE VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MIN_N DIP VIN PRE_AMP_SOURCE VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=12
MTAIL_2 PRE_AMP_SOURCE CLK VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
MTAIL_1 PRE_AMP_SOURCE CLK VSS VSS sky130_fd_pr__nfet_01v8 w=200e-9 nfin=2 l=60e-9  nf=8
.ends double_tail_sense_amplifier
