* SAR ADC Comparator — Strong-Arm Latch - SKY130
* 12-transistor strong-arm latch comparator.
*
* Operation:
*   CLK low  -> reset phase (outputs pre-charged to VDD)
*   CLK high -> evaluation phase (regenerative latch resolves)
*
* Topology:
*   - M1, M2  : NMOS input pair
*   - M3      : NMOS tail switch (clocked)
*   - M4, M5  : PMOS reset switches (clocked)
*   - M6, M7  : PMOS cross-coupled latch pair
*   - M8, M9  : NMOS cross-coupled latch pair
*   - M10, M11: NMOS output isolation switches (clocked)
*   - M12     : PMOS pre-charge (clocked)

.global VSS
.global VSS
.subckt sar_adc_comparator VDD VSS INP INN OUTP OUTN CLK

* --- NMOS input differential pair ---
* M1 — positive input
M1 int_p INP tail VSS sky130_fd_pr__nfet_01v8 W=2.0000e-06 L=1.5000e-07 m=2

* M2 — negative input
M2 int_n INN tail VSS sky130_fd_pr__nfet_01v8 W=2.0000e-06 L=1.5000e-07 m=2

* --- Tail switch (clocked) ---
* M3 — enables evaluation when CLK is high
M3 tail CLK VSS VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

* --- PMOS reset switches ---
* M4 — resets int_p to VDD when CLK is low
M4 int_p CLK VDD VDD sky130_fd_pr__pfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

* M5 — resets int_n to VDD when CLK is low
M5 int_n CLK VDD VDD sky130_fd_pr__pfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

* --- Cross-coupled PMOS latch ---
* M6 — gate driven by int_n, pulls int_p toward VDD
M6 int_p int_n VDD VDD sky130_fd_pr__pfet_01v8 W=2.0000e-06 L=1.5000e-07 m=1

* M7 — gate driven by int_p, pulls int_n toward VDD
M7 int_n int_p VDD VDD sky130_fd_pr__pfet_01v8 W=2.0000e-06 L=1.5000e-07 m=1

* --- Cross-coupled NMOS latch ---
* M8 — gate driven by int_n, pulls int_p toward VSS
M8 int_p int_n VSS VSS sky130_fd_pr__nfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

* M9 — gate driven by int_p, pulls int_n toward VSS
M9 int_n int_p VSS VSS sky130_fd_pr__nfet_01v8 W=1.0000e-06 L=1.5000e-07 m=1

* --- Output isolation switches ---
* M10 — passes resolved int_p to OUTP during evaluation
M10 OUTP CLK int_p VSS sky130_fd_pr__nfet_01v8 W=8.4000e-07 L=1.5000e-07 m=1

* M11 — passes resolved int_n to OUTN during evaluation
M11 OUTN CLK int_n VSS sky130_fd_pr__nfet_01v8 W=8.4000e-07 L=1.5000e-07 m=1

* --- Output pre-charge ---
* M12 — weakly pulls OUTP high during reset (optional)
M12 OUTP CLK VDD VDD sky130_fd_pr__pfet_01v8 W=4.2000e-07 L=1.5000e-07 m=1

.ends sar_adc_comparator
