* NGSPICE file created from ringosc_flat.ext - technology: sky130A

.subckt ringosc_flat 
X0 sky130_fd_sc_hd__inv_1_0[4]/A sky130_fd_sc_hd__inv_1_0[3]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=1.82e+12p ps=1.764e+07u w=1e+06u l=150000u
X1 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[1]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=1.183e+12p ps=1.274e+07u w=650000u l=150000u
X2 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[4]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X3 sky130_fd_sc_hd__inv_1_0[3]/A sky130_fd_sc_hd__inv_1_0[2]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X4 sky130_fd_sc_hd__inv_1_0[1]/A out vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X5 sky130_fd_sc_hd__inv_1_0[1]/A out gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X6 sky130_fd_sc_hd__inv_1_0[3]/A sky130_fd_sc_hd__inv_1_0[2]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X7 sky130_fd_sc_hd__inv_1_0[6]/A sky130_fd_sc_hd__inv_1_0[5]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X8 sky130_fd_sc_hd__inv_1_0[5]/A sky130_fd_sc_hd__inv_1_0[4]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X9 sky130_fd_sc_hd__inv_1_0[6]/A sky130_fd_sc_hd__inv_1_0[5]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X10 out sky130_fd_sc_hd__inv_1_0[6]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X11 sky130_fd_sc_hd__inv_1_0[2]/A sky130_fd_sc_hd__inv_1_0[1]/A vdd vdd sky130_fd_pr__pfet_01v8_hvt ad=2.6e+11p pd=2.52e+06u as=0p ps=0u w=1e+06u l=150000u
X12 sky130_fd_sc_hd__inv_1_0[4]/A sky130_fd_sc_hd__inv_1_0[3]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
X13 out sky130_fd_sc_hd__inv_1_0[6]/A gnd gnd sky130_fd_pr__nfet_01v8 ad=1.69e+11p pd=1.82e+06u as=0p ps=0u w=650000u l=150000u
.ends

